US06716851B2
N-[4-Methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]nicotinamide
The title compound was prepared from a mixture of 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (20 mg, 0.058 mmol) and nicotinoyl chloride hydrochloride (10 mg, 0.058 mmol) similar to Example 139 and isolated as a tan solid (13 mg, 47%). 1H NMR (DMSO-d6):

reactant | 4-(5-amino-2-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.058 mmol, 20 mg | NC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)C | C17H14F3N5
reactant | nicotinoyl chloride hydrochloride | 0.058 mmol, 10 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
product | N-[4-Methyl-3-(2-pyridin-4-yl-6-(trifluoromethyl)pyrimidin-4-ylamino)-phenyl]nicotinamide | CC1=C(C=C(C=C1)NC(C1=CN=CC=C1)=O)NC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C23H17F3N6O
